US08022223B2
Step C: 1-(4-(2-(3-phenoxy-5-(thieno[2,3-d]pyrimidin-4-ylthio)pyridin-2-ylamino)thiazol-4-yl)piperidin-1-yl)ethanone:
4-chlorothieno[2,3-d]pyrimidine (0.050 g, 0.29 mmol) and methyl 3-(6-(4-(1-acetylpiperidin-4-yl)thiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)propanoate (0.15 g, 0.29 mmol) were dissolved in DMSO (3 mL). The solution was degassed for 15 minutes. KOtBu (0.098 g, 0.88 mmol) was added and the reaction stirred at room temperature for two hours. The solution was quenched with water, extracted with dichloromethane, dried, and concentrated. Flash chromatography gave the title compound (0.075, 46%). 1H NMR (400 MHz, CDCl3) δ 1.60-1.72 (m, 2H), 2.08-2.15 (m, 2H), 2.11 (m, 3H), 2.65-2.75 (m, 1H), 2.82-2.93 (m, 1H), 3.15-3.24 (m, 1H), 3.91 (d, 1H), 4.72 (d, 1H), 6.49 (s, 1H), 7.15 (d, 2H), 7.19 (t, 1H), 7.27-7.29 (m, 1H), 7.36-7.42 (m, 3H), 7.53 (d, 1H), 8.27 (d, 1H), 8.68 (s, 1H), 8.81 (s, 1H).

reactant | 4-chlorothieno[2,3-d]pyrimidine | 0.29 mmol, 0.050 g | ClC=1C2=C(N=CN1)SC=C2 | C6H3ClN2S
reactant | methyl 3-(6-(4-(1-acetylpiperidin-4-yl)thiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)propanoate | 0.29 mmol, 0.15 g | C(C)(=O)N1CCC(CC1)C=1N=C(SC1)NC1=C(C=C(C=N1)SCCC(=O)OC)OC1=CC=CC=C1 | C25H28N4O4S2
reactant | KOtBu | 0.88 mmol, 0.098 g | CC(C)(C)[O-].[K+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 1-(4-(2-(3-phenoxy-5-(thieno[2,3-d]pyrimidin-4-ylthio)pyridin-2-ylamino)thiazol-4-yl)piperidin-1-yl)ethanone | 46% | O(C1=CC=CC=C1)C=1C(=NC=C(C1)SC=1C2=C(N=CN1)SC=C2)NC=2SC=C(N2)C2CCN(CC2)C(C)=O | C27H24N6O2S3
